US07459472B2
3-(3′-Chloro-4′-fluoro-biphenyl-4-yl)-2-(R)-[(4-methoxy-4′-trifluoromethyl-biphenyl-3-carbonyl)-amino]-propionic acid methyl ester (223 mg) was prepared from 4-Methoxy-4′-trifluoromethyl-biphenyl-3-carboxylic acid (141 mg, 0.5 mmol) and-2-(R)-amino-3-(3′-chloro-4′-fluoro-biphenyl-4-yl)-propionic acid methyl ester (155 mg, 0.5 mmol) following the general procedure A.

reactant | 4-Methoxy-4′-trifluoromethyl-biphenyl-3-carboxylic acid | 0.5 mmol, 141 mg | COC1=C(C=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)C(=O)O | C15H11F3O3
reactant | 2-(R)-amino-3-(3′-chloro-4′-fluoro-biphenyl-4-yl)-propionic acid methyl ester | 0.5 mmol, 155 mg | COC([C@@H](CC1=CC=C(C=C1)C1=CC(=C(C=C1)F)Cl)N)=O | C16H15ClFNO2
product | 3-(3′-Chloro-4′-fluoro-biphenyl-4-yl)-2-(R)-[(4-methoxy-4′-trifluoromethyl-biphenyl-3-carbonyl)-amino]-propionic acid methyl ester | 223 mg | COC([C@@H](CC1=CC=C(C=C1)C1=CC(=C(C=C1)F)Cl)NC(=O)C=1C=C(C=CC1OC)C1=CC=C(C=C1)C(F)(F)F)=O | C31H24ClF4NO4
